US05128371
EXAMPLE 3 Production of N-(2-methylnaphthyl)-N-(2-oxo-tetrahydrofuran-3-yl)-N-acetoxyacetylamine [=compound 19].
A mixture of 18.2 g of N-(2-methylnaphthyl)-N-(2-oxo-tetrahydrofuran-3-yl)-N-chloroacetyl-amine, 11.5 g of anhydrous sodium acetate and 0.1 g of KJ in 70 ml of dimethylformamide (DMF) is heated at 110° for 16 hours. The reaction mixture is afterwards cooled to room temperature, poured into 200 ml of water and extracted three times with 50 ml of ethyl acetate each time. The combined extracts are washed with 50 ml of water, dried over sodium sulfate, filtered and then concentrated by evaporation. The dark-brown oil remaining is purified through silica gel 60 (particle size 0.06-0.2 mm) using chloroform/diethyl ether (1:1) as the eluant. The last 10 of 12 fractions are combined and the eluant is evaporated off. The diastereoisomeric mixture of the compound No. 19 which remains solidifies on cooling, m.p. 50°-70°.

reactant | N-(2-methylnaphthyl)-N-(2-oxo-tetrahydrofuran-3-yl)-N-chloroacetyl-amine | 18.2 g | CC1=C(C2=CC=CC=C2C=C1)N(C(CCl)=O)C1C(OCC1)=O | C17H16ClNO3
reactant | sodium acetate | 11.5 g | C(C)(=O)[O-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | N-(2-methylnaphthyl)-N-(2-oxo-tetrahydrofuran-3-yl)-N-acetoxyacetylamine | CC1=C(C2=CC=CC=C2C=C1)N(C(COC(C)=O)=O)C1C(OCC1)=O | C19H19NO5
